US04687775
A mixture of 5.0 g (30 mmole) of 3-(acetoxymethyl)-2-pyridinamine and 4.8 g (35 mmole) of 2-bromopropanal spontaneously heated upon mixing. After cooling, the mixture was partitioned between aqueous potassium carbonate and dichloromethane. The organic phase was separated, washed with water, dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography on silica gel (using ethanol-dichloromethane as eluent) yielded 2.3 g of 8-(acetoxymethyl)-3-methylimidazo[1,2-a]pyridine, as confirmed by the nmr and infrared spectra and by elemental analysis. [Calcd. for C11H12N2O2 : C, 64.69; H, 5.92; N, 13.72. Found: C, 63.70; H, 5.85; N, 14.24). A mixture of 2.3 g (11 mmole) of 8-(acetoxymethyl)-3-methylimidazo[1,2-a]pyridine and 1.65 g (11 mmole) of 2-mercaptobenzimidazole in 40 ml of 15% hydrogen bromide in acetic acid was heated on a steam bath. After being cooled to room temperature, the mixture was partitioned between 5% aqueous sodium hydroxide and dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated to an oil. Chromatography yielded 2.1 g of the title compound. Structure assignment was supported by the nmr and infrared spectra.

reactant | 3-(acetoxymethyl)-2-pyridinamine | 30 mmole, 5.0 g | C(C)(=O)OCC=1C(=NC=CC1)N | C8H10N2O2
reactant | 2-bromopropanal | 35 mmole, 4.8 g | BrC(C=O)C | C3H5BrO
product | 8-(acetoxymethyl)-3-methylimidazo[1,2-a]pyridine | 2.3 g | C(C)(=O)OCC=1C=2N(C=CC1)C(=CN2)C | C11H12N2O2
